US07560546B2
3-(Azetidin-1-ylsulfonyl)-5-chloro-1H-indole-2-carboxamide
The titled compound was prepared using the procedures described in Steps B and C of Example 2, followed by the procedure described in Step E of Example 1, replacing in Step B of Example 2 ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and morpholine with azetidine. Proton NMR for the product was consistent with the titled compound.

reactant | ethyl 5-bromo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | BrC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13BrClNO6S2
reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | azetidine | N1CCC1 | C3H7N
product | 3-(Azetidin-1-ylsulfonyl)-5-chloro-1H-indole-2-carboxamide | N1(CCC1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)Cl)C(=O)N | C12H12ClN3O3S
